US04182865
To 18.85 g (0.1 mole) of dichloromethylenetetramethylene ammonium chloride in 100 ml of dry methylene chloride is added dropwise a solution of 15.13 g (0.1 mole) of 1-adamantylamine and 20.2 g (0.2 mole) of triethylamine in dry CH2Cl2 with cooling (ice bath) under dry N2. After the addition is complete, the mixture is stirred at room temperature for 3 hrs. Then a dry methylene chloride solution containing 9.71 g (0.1 mole) of 2-amino-1-methylimidazole and 10.1 g (0.1 mole) of triethylamine is added dropwise over 1 hr with cooling. After the addition the mixture is stirred under dry N2 overnight at room temperature. The mixture is then shaken with excess 3 N NaOH and the organic layer is separated, dried (K2CO3), filtered and the solvent and residual triethylamine is removed in vacuo giving N-(1-adamantyl)-N'-(1-methylimidazol-2-yl)-1-pyrrolidinecarboximidamide free base.

reactant | 1-adamantylamine | 0.1 mole, 15.13 g | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
reactant | triethylamine | 0.2 mole, 20.2 g | C(C)N(CC)CC | C6H15N
reactant | 2-amino-1-methylimidazole | 0.1 mole, 9.71 g | NC=1N(C=CN1)C | C4H7N3
reactant | triethylamine | 0.1 mole, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | NaOH | 3 N | [OH-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(1-adamantyl)-N'-(1-methylimidazol-2-yl)-1-pyrrolidinecarboximidamide | C12(CC3CC(CC(C1)C3)C2)NC(=NC=2N(C=CN2)C)N2CCCC2 | C19H29N5
